US06323223B1
p-Toluoyl chloride (0.14 ml, 1 mmol) was added to a solution of 1-(S)-[4-(3,4-dichlorobenzyl)piperidin-1-ylmethyl]-2-methylpropylamine (0.33 g, 1 mmol) in dry pyridine (7 ml) at 0° C. under argon atmosphere. The solution was stirred for 30 min., at 0° C. and then allowed to warm to room temperature. After 3 h, the reaction mixture was concentrated under reduced pressure and water (10 ml) was added. The product was extracted with ethyl acetate and the organic layer was dried with magnesium sulfate and then concentrated in vacuo. The crude product (0.5 g) was chromatographed by eluting with a gradient of from 1% to 4% methanol/methylene chloride to give N-{1-(S)-[4-(3,4-dichlorobenzyl)piperidin-1-ylmethyl]-2-methylpropyl}-4-methylbenzamide (0.25 g) as partially solidified gum.

reactant | p-Toluoyl chloride | 1 mmol, 0.14 ml | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | 1-(S)-[4-(3,4-dichlorobenzyl)piperidin-1-ylmethyl]-2-methylpropylamine | 1 mmol, 0.33 g | ClC=1C=C(CC2CCN(CC2)C[C@H](C(C)C)N)C=CC1Cl | C17H26Cl2N2
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
product | N-{1-(S)-[4-(3,4-dichlorobenzyl)piperidin-1-ylmethyl]-2-methylpropyl}-4-methylbenzamide | 0.25 g | ClC=1C=C(CC2CCN(CC2)C[C@H](C(C)C)NC(C2=CC=C(C=C2)C)=O)C=CC1Cl | C25H32Cl2N2O
